US07378409B2
Synthesis of N-(2-((1S,2R,4R)-2-(hydroxymethyl)-4-(isopropylamino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide
A solution of tert-butyl(1R,3R,4S)-3-(hydroxymethyl)-4-(2-(3-(trifluoromethyl)-benzamido)acetamido)cyclohexyl(isopropyl)carbamate (130 mg) in CH2Cl2 is treated with CF3COOH (7 ml) and stirred at room temperature for 2 hours. The solution was evaporated and the residue neutralized with 1 N NaOH and extracted into CH2Cl2. The extract was washed with water, brine, dried over Na2SO4, filtered and the solvent evaporated to give 100 mg of the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ(TMS): 8.12 (s, 1 H), 8.03 (d, J=7.8 Hz, 1 H), 7.94 (bt, 1 H), 7.75 (d, J=7.8 Hz, 1 H), 7.57 (t, J=7.8 Hz,l H), 7.39 (bd, 1 H), 4.31 (m, 1 H), 4.26 (dd, J=5 Hz, J=16 Hz, 1 H), 4.13 (dd, J=5 Hz, J=16 Hz, 1 H), 3.42 (m, 1 H), 3.27 (m, 1 H), 3.05 (m, 1 H), 2.84 (m, 1 H), 1.92-1.60 (m, 8 H), 1.12 (d, J=6.3 Hz, 6 H). MS found: (M+H)+=416.38.

reactant | tert-butyl(1R,3R,4S)-3-(hydroxymethyl)-4-(2-(3-(trifluoromethyl)-benzamido)acetamido)cyclohexyl(isopropyl)carbamate | 130 mg | OC[C@@H]1C[C@@H](CC[C@@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)N(C(OC(C)(C)C)=O)C(C)C | C25H36F3N3O5
reactant | CF3COOH | 7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2-((1S,2R,4R)-2-(hydroxymethyl)-4-(isopropylamino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | 100 mg | OC[C@H]1[C@H](CC[C@H](C1)NC(C)C)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C20H28F3N3O3
